US07781590B2
2.2. 1,1-dimethylethyl 4-[(2,4-dioxo-1,3-oxazolidin-3-yl)methyl]piperidine-1-carboxylate
A suspension of 13.60 g (46.36 mmol) of 1,1-dimethylethyl 4-{[(methylsulphonyl)oxy]methyl}piperidine-1-carboxylate, prepared in step 2.1., 9.37 g (92.72 mmol) of 1,3-oxazolidine-2,4-dione and 16.02 g (139.08 mmol) of 1,1,3,3-tetramethylguanidine in a mixture of 180 ml of tetrahydrofuran and 30 ml of dimethylformamide is heated at reflux for 24 hours. It is allowed to return to ambient temperature and is concentrated under reduced pressure. The residue is taken up in dichloromethane and water and the aqueous phase is separated off and extracted twice with dichloromethane. The combined organic phases are washed with saturated aqueous sodium chloride solution and dried over sodium sulphate. Following evaporation of the solvent, the residue obtained is purified by chromatography on silica gel, eluting with a 98/2 then 95/5 mixture of dichloromethane and methanol.

reactant | 1,1-dimethylethyl 4-{[(methylsulphonyl)oxy]methyl}piperidine-1-carboxylate | 46.36 mmol, 13.60 g | CS(=O)(=O)OCC1CCN(CC1)C(=O)OC(C)(C)C | C12H23NO5S
reactant | 1,3-oxazolidine-2,4-dione | 92.72 mmol, 9.37 g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | 1,1,3,3-tetramethylguanidine | 139.08 mmol, 16.02 g | CN(C(=N)N(C)C)C | C5H13N3
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1,1-dimethylethyl 4-[(2,4-dioxo-1,3-oxazolidin-3-yl)methyl]piperidine-1-carboxylate | O=C1OCC(N1CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C14H22N2O5
